US07041668B2
A solution of 4-fluoro-benzenesulfonic acid 3-benzyl-2-(3,4-dimethoxy-phenylamino)-3H-benzoimidazol-5-yl ester (151 mg) and cyclopentylamine (118 μl) in N-methylpyrrolidinone (1.5 ml) was heated at 110° C. in a sealed tube for 3 hours. The reaction mixture was allowed to cool then poured into water (30 ml) and extracted three times with ethyl acetate. The combined extracts were dried over magnesium sulfate then evaporated. The residue was subjected to flash chromatography on silica eluting with a mixture of ethyl acetate and heptane (1:1, v/v) to give 4-cyclopentylamino-benzenesulfonic acid 3-benzyl-2-(3,4-dimethoxy-phenylamino)-3H-benzoimidazol-5-yl ester (122 mg) as a brown solid. Mass spectrum: 599 [M+H]+, retention time=4.0 minutes.

reactant | 4-fluoro-benzenesulfonic acid 3-benzyl-2-(3,4-dimethoxy-phenylamino)-3H-benzoimidazol-5-yl ester | 151 mg | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OS(=O)(=O)C2=CC=C(C=C2)F)NC2=CC(=C(C=C2)OC)OC | C28H24FN3O5S
reactant | cyclopentylamine | 118 μl | C1(CCCC1)N | C5H11N
reactant | water | 30 ml | O | H2O
solvent | N-methylpyrrolidinone | 1.5 ml | CN1C(CCC1)=O | C5H9NO
product | 4-cyclopentylamino-benzenesulfonic acid 3-benzyl-2-(3,4-dimethoxy-phenylamino)-3H-benzoimidazol-5-yl ester | 122 mg | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OS(=O)(=O)C2=CC=C(C=C2)NC2CCCC2)NC2=CC(=C(C=C2)OC)OC | C33H34N4O5S
